US04845121
Methyl 5-Chloro-2-phenylmethoxybenzoate.
To a solution of methyl 5-chlorosalicylate (5.58 g, 0.03 mol) in 20 ml of dry acetone were added anhydrous K2CO3 (4.55 g, 0.033 mol) and benzylbromide (5.64 g, 0.033 mol). The resulting solution was refluxed for 5 h and the solvent evaporated under reduced pressure. The residue was partitioned between ether and water. The ether layer was washed with 10% aqueous NaOH solution and brine, dried (Na2SO4), filtered and concentrated under reduced pressure. The resulting residue was recrystallized from absolute ethanol affording 7.6 g (91.7%) of methyl 5-chloro-2-phenylmethoxybenzoate as white crystals: mp 54.5°-55° C.; IR (KBr) 1740 (ester) cm-1 ; NMR (CDCl3, 90 MHz) δ 3.90 (s, 3H, CO2CH3), 5.16 (s, 2H, OCH2Ph), 6.93 (d, 1H, ArH, J=8.9 Hz), 7.20-7.55 (m, 6H, ArH), 7.79 (d, 1H, ArH, J=2.9 Hz). Anal calcd. for (C15H13ClO3): C, 65.11; H, 4.73; Cl, 12.81. Found: C, 65.33; H, 4.88; Cl, 13.08.

reactant | methyl 5-chlorosalicylate | 0.03 mol, 5.58 g | ClC1=CC=C(C(C(=O)OC)=C1)O | C8H7ClO3
reactant | K2CO3 | 0.033 mol, 4.55 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzylbromide | 0.033 mol, 5.64 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | Methyl 5-Chloro-2-phenylmethoxybenzoate | ClC=1C=CC(=C(C(=O)OC)C1)OCC1=CC=CC=C1 | C15H13ClO3
